US07897607B2
2-Chloro-4-methoxy-6-methyl-5-nitropyrimidine
2,4-Dichloro-6-methyl-5-nitropyrimidine (3.0 g, 14.4 mmol) was dissolved in methanol (30 mL). The solution was cooled to −10° C. and sodium methoxide (25% in methanol, 3.3 mL, 14.4 mmol) was added drop wise. After 10 minutes, the solution was quenched with acetic acid (5 mL) and concentrated. The residue was suspended in saturated sodium bicarbonate and extracted twice with ethyl acetate. The organic layer was dried over sodium sulfate, filtered and concentrated. Flash chromatography (5% ethyl acetate/hexanes) gave 1.91 g (65% yield) of the title compound as a white solid.

reactant | 2,4-Dichloro-6-methyl-5-nitropyrimidine | 14.4 mmol, 3.0 g | ClC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])C | C5H3Cl2N3O2
reactant | sodium methoxide | 14.4 mmol, 3.3 mL | C[O-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 2-Chloro-4-methoxy-6-methyl-5-nitropyrimidine | 1.91 g, 65% yield | ClC1=NC(=C(C(=N1)OC)[N+](=O)[O-])C | C6H6ClN3O3
